### PR TITLE
[Merged by Bors] - feat: a convex lower-semicontinuous function is the supremum of a sequence of affine functions in a separable space

### PR DESCRIPTION
**Pull request by CoolRmal**
In this PR we show that a convex lower-semicontinuous function is the upper envelope of a family
of continuous affine linear functions. We further prove that it is the upper envelope of countably many affine functions if the underlying space is Hereditarily Lindelof.

Special thanks to @ADedecker  for pointing out Bourbaki’s proof, which greatly simplified my code, and to @RemyDegenne for his prompt reviews and helpful comments.

---

- [x] depends on: #35306
- [x] depends on: #35305
- [x] depends on: #35302
- [x] depends on: #35299

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by CoolRmal** [comment]
RFC

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 1]
```diff
@@ -0,0 +1,281 @@
...
+      ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = s.restrict (re ∘ l) + const s c}
+    have hl : IsLUB 𝓕 (s.restrict φ) := by
+      refine (hφcv.sSup_affine_eq (𝕜 := 𝕜) hsc hφc) ▸ isLUB_csSup ?_ ?_
+      · obtain ⟨f, hf⟩ := exists_affine (𝕜 := 𝕜)
+          (by grind : φ hs.some - 1 < φ (⟨hs.some, hs.some_mem⟩ : s)) hsc hφc hφcv
+        exact ⟨f, f.2⟩
+      · exact (bddAbove_def.2 ⟨φ ∘ Subtype.val, fun y hy => hy.1⟩)
+    have hr (f) (hf : f ∈ 𝓕) : LowerSemicontinuous f := by
+      obtain ⟨l, c, hlc⟩ := hf.2
+      exact Continuous.lowerSemicontinuous (hlc ▸ Continuous.add (by fun_prop) (by fun_prop))
```
Comment (CoolRmal) [inline Mathlib/Analysis/Convex/Approximation.lean:125]: After #35306 is merged, I can replace this line with `exact Continuous.lowerSemicontinuous (hlc ▸ by fun_prop)`

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 2]
```diff
@@ -0,0 +1,280 @@
...
+    (f ∘L .inl R M M₁).coprod (f ∘L .inr R M M₁) = f := by
+  rw [← ContinuousLinearMap.comp_coprod, ContinuousLinearMap.coprod_inl_inr, comp_id]
+
+theorem pos_of_right_mul_lt_le {R} {a b c : R} [Semiring R] [LinearOrder R] [ExistsAddOfLE R]
+    [PosMulMono R] [AddRightMono R] [AddRightReflectLE R]
+    (h : a * b < a * c) (hbc : b ≤ c) :
+    0 < a := by
+  by_cases! ha : 0 < a
+  · exact ha
+  · grind [mul_le_mul_of_nonpos_left hbc ha]
```
Comment (CoolRmal) [inline Mathlib/Analysis/Convex/Approximation.lean]: I'll delete this after #35302 is merged.

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 3]
```diff
@@ -0,0 +1,280 @@
...
+
+open Function Set RCLike ContinuousLinearMap
+
+@[simp]
+theorem ContinuousLinearMap.coprod_comp_inl_inr {R M M₁ M₂ : Type*}
+    [Semiring R] [TopologicalSpace M] [TopologicalSpace M₁] [TopologicalSpace M₂] [AddCommMonoid M]
+    [Module R M] [ContinuousAdd M] [AddCommMonoid M₁] [Module R M₁] [ContinuousAdd M₁]
+    [AddCommMonoid M₂] [Module R M₂] [ContinuousAdd M₂] (f : M × M₁ →L[R] M₂) :
+    (f ∘L .inl R M M₁).coprod (f ∘L .inr R M M₁) = f := by
+  rw [← ContinuousLinearMap.comp_coprod, ContinuousLinearMap.coprod_inl_inr, comp_id]
```
Comment (CoolRmal) [inline Mathlib/Analysis/Convex/Approximation.lean]: I'll delete this after #35299 is merged.

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 4]
```diff
@@ -0,0 +1,263 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yongxi Lin
+-/
+module
+
+public import Mathlib.Analysis.InnerProductSpace.Basic
+public import Mathlib.Analysis.LocallyConvex.Separation
+public import Mathlib.Analysis.Normed.Order.Lattice
+public import Mathlib.Data.Real.StarOrdered
+public import Mathlib.Topology.Semicontinuity.Lindelof
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
public import Mathlib.Analysis.LocallyConvex.Separation

import Mathlib.Analysis.InnerProductSpace.Basic
import Mathlib.Analysis.Normed.Order.Lattice
import Mathlib.Topology.Semicontinuity.Lindelof
```
One of the imports was not needed. Others don't need to be public.

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 5]
```diff
@@ -0,0 +1,263 @@
...
+section RCLike
+
+variable [AddCommGroup E] [Module ℝ E] [Module 𝕜 E] [IsScalarTower ℝ 𝕜 E] [IsTopologicalAddGroup E]
+  [ContinuousSMul 𝕜 E] [LocallyConvexSpace ℝ E]
+
+/-- Let `φ : E → ℝ` be a convex and lower-semicontinuous function on a closed convex subset `s`. For
+any point `x ∈ s` and `a < φ x`, there exists a continuous affine linear function `f` in `E` such
+that `f ≤ φ` on `s` and `f x = a`. This is an auxiliary lemma used in the proof of
+`ConvexOn.sSup_affine_eq.` -/
+lemma exists_affine {x : E} {a : ℝ} (hx : x ∈ s) (hax : a < φ x) (hsc : IsClosed s)
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
lemma exists_affine_le_of_lt {x : E} {a : ℝ} (hx : x ∈ s) (hax : a < φ x) (hsc : IsClosed s)
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 6]
```diff
@@ -0,0 +1,263 @@
...
+      using mul_le_mul_of_nonneg_left (hine z.2).le hc.le
+  · simp [u, c, smul_re]
+
+/-- A function `φ : E → ℝ` that is convex and lower-semicontinuous on a closed convex subset `s` is
+the supremum of a family of functions that are the restrictions to `s` of continuous affine linear
+functions in `E`. -/
+theorem sSup_affine_eq (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    sSup {f | f ≤ s.restrict φ ∧ ∃ (l : E →L[𝕜] 𝕜) (c : ℝ),
+    f = s.restrict (re ∘ l) + const s c} = s.restrict φ := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]: I think it makes more sense to cut the line like this:
```suggestion
    sSup {f | f ≤ s.restrict φ ∧ ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = s.restrict (re ∘ l) + const s c} =
      s.restrict φ := by
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 7]
```diff
@@ -0,0 +1,263 @@
...
+  [ContinuousSMul 𝕜 E] [LocallyConvexSpace ℝ E]
+
+/-- Let `φ : E → ℝ` be a convex and lower-semicontinuous function on a closed convex subset `s`. For
+any point `x ∈ s` and `a < φ x`, there exists a continuous affine linear function `f` in `E` such
+that `f ≤ φ` on `s` and `f x = a`. This is an auxiliary lemma used in the proof of
+`ConvexOn.sSup_affine_eq.` -/
+lemma exists_affine {x : E} {a : ℝ} (hx : x ∈ s) (hax : a < φ x) (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), s.restrict (re ∘ l) + const s c ≤ s.restrict φ ∧
+    re (l x) + c = a := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    ∃ (l : E →L[𝕜] 𝕜) (c : ℝ),
      s.restrict (re ∘ l) + const s c ≤ s.restrict φ ∧ re (l x) + c = a := by
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 8]
```diff
@@ -0,0 +1,263 @@
...
+  _ = sSup 𝓕 ∘ (Equiv.Set.univ E).symm := by ext x; rw [sSup_image', sSup_eq_iSup']; simp
+  _ = φ ∘ Subtype.val ∘ (Equiv.Set.univ E).symm :=
+    congrArg (fun g => g ∘ (Equiv.Set.univ E).symm) this
+  _ = φ := by ext; simp
+
+/-- The countable version of `univ_sSup_affine_eq`. -/
+theorem univ_sSup_of_countable_affine_eq [HereditarilyLindelofSpace E]
+    (hφc : LowerSemicontinuous φ) (hφcv : ConvexOn ℝ univ φ) :
+    ∃ 𝓕' : Set (E → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = φ ∧ ∀ f ∈ 𝓕',
+    ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = (re ∘ l) + const E c := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    ∃ 𝓕' : Set (E → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = φ ∧
      ∀ f ∈ 𝓕', ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = (re ∘ l) + const E c := by
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 9]
```diff
@@ -0,0 +1,263 @@
...
+  · exact hf ▸ f.2.1 x
+  · obtain ⟨z, hz⟩ := exists_between hr
+    obtain ⟨l, c, hlc⟩ := exists_affine (𝕜 := 𝕜) x.2 hz.2 hsc hφc hφcv
+    exact ⟨z, hlc.2 ▸ ⟨⟨s.restrict (re ∘ l) + const s c, hlc.1, l, c, rfl⟩, rfl⟩, hz.1⟩
+
+/-- The countable version of `sSup_affine_eq`. -/
+theorem sSup_of_countable_affine_eq [HereditarilyLindelofSpace E] (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    ∃ 𝓕' : Set (s → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = s.restrict φ ∧ ∀ f ∈ 𝓕',
+    ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = s.restrict (re ∘ l) + const s c := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    ∃ 𝓕' : Set (s → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = s.restrict φ ∧
      ∀ f ∈ 𝓕', ∃ (l : E →L[𝕜] 𝕜) (c : ℝ), f = s.restrict (re ∘ l) + const s c := by
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 10]
```diff
@@ -0,0 +1,263 @@
...
+    refine ⟨𝓕', h𝓕'.2.1, h𝓕'.2.2.csSup_eq ?_, fun f hf => (h𝓕'.1 hf).2⟩
+    by_contra!
+    grind [(isLUB_empty_iff.1 (this ▸ h𝓕'.2.2)) (fun x : s => φ x - 1) ⟨hs.some, hs.some_mem⟩]
+  · use ∅; simp [restrict_def]; grind
+
+/-- The sequential version of `sSup_of_countable_affine_eq`. -/
+theorem sSup_of_nat_affine_eq [HereditarilyLindelofSpace E] (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    ∃ (l : ℕ → E →L[𝕜] 𝕜) (c : ℕ → ℝ),
+    ⨆ i, s.restrict (re ∘ (l i)) + const s (c i) = s.restrict φ := by
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]: You should indent the following lines if the goal spans several lines:

```suggestion
    ∃ (l : ℕ → E →L[𝕜] 𝕜) (c : ℕ → ℝ),
      ⨆ i, s.restrict (re ∘ (l i)) + const s (c i) = s.restrict φ := by
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 11]
```diff
@@ -0,0 +1,263 @@
...
+section Real
+
+variable [AddCommGroup E] [Module ℝ E] [IsTopologicalAddGroup E] [ContinuousSMul ℝ E]
+  [LocallyConvexSpace ℝ E]
+
+/-- The real version of `sSup_affine_eq`. -/
+theorem real_sSup_affine_eq (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    sSup {f | f ≤ s.restrict φ ∧ ∃ (l : E →L[ℝ] ℝ) (c : ℝ),
+    f = s.restrict l + const s c} = s.restrict φ :=
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    sSup {f | f ≤ s.restrict φ ∧ ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = s.restrict l + const s c} =
      s.restrict φ :=
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 12]
```diff
@@ -0,0 +1,263 @@
...
+  sSup_affine_eq (𝕜 := ℝ) hsc hφc hφcv
+
+/-- The real version of `sSup_of_countable_affine_eq`. -/
+theorem real_sSup_of_countable_affine_eq [HereditarilyLindelofSpace E] (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    ∃ 𝓕' : Set (s → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = s.restrict φ ∧ ∀ f ∈ 𝓕',
+    ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = s.restrict l + const s c :=
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    ∃ 𝓕' : Set (s → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = s.restrict φ ∧
      ∀ f ∈ 𝓕', ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = s.restrict l + const s c :=
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 13]
```diff
@@ -0,0 +1,263 @@
...
+  sSup_of_countable_affine_eq (𝕜 := ℝ) hsc hφc hφcv
+
+/-- The real version of `sSup_of_nat_affine_eq`. -/
+theorem real_sSup_of_nat_affine_eq [HereditarilyLindelofSpace E] (hsc : IsClosed s)
+    (hφc : LowerSemicontinuousOn φ s) (hφcv : ConvexOn ℝ s φ) :
+    ∃ (l : ℕ → E →L[ℝ] ℝ) (c : ℕ → ℝ),
+    ⨆ i, s.restrict (l i) + const s (c i) = s.restrict φ :=
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
      ⨆ i, s.restrict (l i) + const s (c i) = s.restrict φ :=
```

File: Mathlib/Analysis/Convex/Approximation.lean [hunk 14]
```diff
@@ -0,0 +1,263 @@
...
+/-- The real version of `univ_sSup_affine_eq`. -/
+theorem real_univ_sSup_affine_eq (hφc : LowerSemicontinuous φ) (hφcv : ConvexOn ℝ univ φ) :
+    sSup {f | f ≤ φ ∧ ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = l + const E c} = φ :=
+  univ_sSup_affine_eq (𝕜 := ℝ) hφc hφcv
+
+/-- The real version of `univ_sSup_of_countable_affine_eq`. -/
+theorem real_univ_sSup_of_countable_affine_eq [HereditarilyLindelofSpace E]
+    (hφc : LowerSemicontinuous φ) (hφcv : ConvexOn ℝ univ φ) :
+    ∃ 𝓕' : Set (E → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = φ ∧ ∀ f ∈ 𝓕',
+    ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = l + const E c :=
```
Comment (RemyDegenne) [inline Mathlib/Analysis/Convex/Approximation.lean]:
```suggestion
    ∃ 𝓕' : Set (E → ℝ), 𝓕'.Countable ∧ sSup 𝓕' = φ ∧
      ∀ f ∈ 𝓕', ∃ (l : E →L[ℝ] ℝ) (c : ℝ), f = l + const E c :=
```

**Review by RemyDegenne — COMMENTED** [review]
It looks good!

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors r+
